US05216018
cis-2,3a-Dibenzylhexahydroisoindoline
A mixture of 0.46 g (1.3 mmoles) of cis-2,3a-dibenzyl-3a,4,7,7a-tetrahydroisoindoline (Ex. 13), 0.46 g of platinum oxide and 100 mL of methanol were hydrogenated at 50 p.s.i. for 1 h. The catalyst was removed by filtration through celite and the filtrate was evaporated to give 0.41 g of the title compound as a clear oil.

reactant | cis-2,3a-dibenzyl-3a,4,7,7a-tetrahydroisoindoline | 1.3 mmoles, 0.46 g | C(C1=CC=CC=C1)N1C[C@H]2CC=CC[C@]2(C1)CC1=CC=CC=C1 | C22H25N
catalyst | platinum oxide | 0.46 g | [Pt]=O
solvent | methanol | 100 mL | CO | CH4O
product | cis-2,3a-Dibenzylhexahydroisoindoline | 0.41 g | C(C1=CC=CC=C1)N1C[C@H]2CCCC[C@]2(C1)CC1=CC=CC=C1 | C22H27N
